US07402608B2
3-[(4-Methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (67 mg, 0.148 mmol) was dissolved in methanol (1.5 ml) and hydroxylamine hydrochloride salt (62 mg, 0.888 mmol) was added. After stirring for 2 hours at room temperature and 2 hours at reflux, the pH of the solution was adjusted to 8-9 by addition of a 10% sodium hydroxide solution. The resulting solution was then refluxed for 30 minutes and cooled to room temperature. It was then quenched with water (5 ml) and extracted with ethyl acetate (3×5 ml). The combined ethyl acetate layer was washed with brine, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (0% to 60% EtOAc/Hex) to obtain 49 mg (71%) of 3-[(4-Hydroxyimino-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester.

reactant | 3-[(4-Methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.148 mmol, 67 mg | COC(=O)C=1SC(=CC1N(C1CCC(CC1)=O)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C26H31NO4S
reactant | hydroxylamine hydrochloride salt | 0.888 mmol, 62 mg | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 1.5 ml | CO | CH4O
product | 3-[(4-Hydroxyimino-cyclohexyl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 49 mg, 71% | COC(=O)C=1SC(=CC1N(C(=O)C1CCC(CC1)C)C1CCC(CC1)=NO)C1=CC=CC=C1 | C26H32N2O4S
